US06586475B1
2-(4-([1,1′-Biphenyl]-4-ylmethoxy)phenyl)-N-(2-(dimethylnitroryl)ethyl)acetamide
To a solution of 2-(4-([1,1′-biphenyl]-4-ylmethoxy)phenyl)-N-(2-(dimethylamino)ethyl)acetamide (0.2 g) in acetone (30 ml) was added m-chloroperbenzoic acid (0.2 g) and stirring was continued at room temperature for 18 hr. The reaction mixture was concentrated. The residue was recrystallized twice from ethyl acetate to obtain the titled compound (0.1 g).

reactant | 2-(4-([1,1′-biphenyl]-4-ylmethoxy)phenyl)-N-(2-(dimethylamino)ethyl)acetamide | 0.2 g | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CC(=O)NCCN(C)C)C1=CC=CC=C1 | C25H28N2O2
reactant | m-chloroperbenzoic acid | 0.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-(4-([1,1′-Biphenyl]-4-ylmethoxy)phenyl)-N-(2-(dimethylnitroryl)ethyl)acetamide | 0.1 g | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CC(=O)NCC[N+]([O-])(C)C)C1=CC=CC=C1 | C25H28N2O3
